US04929641
N[2(S)-MERCAPTOMETHYL-3-(2-METHYLPHENYL)PROPIONYL]-(S)-METHIONINE
To N-[2(S)-acetylthiomethyl-3-(2-methylphenyl)propionyl]-(S)-methionine methyl ester (0.60 g, 1.5 mmol) in degassed MeOH (15 ml) add 1.0N NaOH (degassed) (5.0 ml). After 2 hr., concentrate in vacuo to 5 ml., add 5.0 ml 1.0N HCl, and separate the gum. Dissolve this in EtOAc, dry and concentrate to obtain the title compound, m.p. 116°-117°, [α]D26 =+13.0° (EtOH).

reactant | N-[2(S)-acetylthiomethyl-3-(2-methylphenyl)propionyl]-(S)-methionine methyl ester | 1.5 mmol, 0.60 g | COC([C@@H](NC([C@H](CC1=C(C=CC=C1)C)CSC(C)=O)=O)CCSC)=O | C19H27NO4S2
reactant | NaOH | 1.0N, 5.0 ml | [OH-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
product | N[2(S)-MERCAPTOMETHYL-3-(2-METHYLPHENYL)PROPIONYL]-(S)-METHIONINE | SC[C@H](C(=O)N[C@@H](CCSC)C(=O)O)CC1=C(C=CC=C1)C | C16H23NO3S2
